US08258158B2
This material was made in analogy to example 1 from 4-fluoro-1-(toluene-4-sulfonyl)-piperidine-4-carboxylic acid (0.15 g), (rac)-4-(2,2,2-trifluoro-1-methyl-ethoxy)-phenylamine (0.102 g) to give the desired (rac)-4-fluoro-1-(toluene-4-sulfonyl)-piperidine-4-carboxylic acid [4-(2,2,2-trifluoro-1-methyl-ethoxy)-phenyl]-amide (0.025 g) as an off-white solid. MS (ESI): 489.25 (MH+).

reactant | 4-fluoro-1-(toluene-4-sulfonyl)-piperidine-4-carboxylic acid | 0.15 g | FC1(CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C)C(=O)O | C13H16FNO4S
reactant | (rac)-4-(2,2,2-trifluoro-1-methyl-ethoxy)-phenylamine | 0.102 g | FC(C(OC1=CC=C(C=C1)N)C)(F)F | C9H10F3NO
product | (rac)-4-fluoro-1-(toluene-4-sulfonyl)-piperidine-4-carboxylic acid [4-(2,2,2-trifluoro-1-methyl-ethoxy)-phenyl]-amide | 0.025 g | FC(C(OC1=CC=C(C=C1)NC(=O)C1(CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C)F)C)(F)F | C22H24F4N2O4S
